US07504517B2
Preparation of 2-(R)-(4-methoxyphenyl)-2-[2-(4-methoxyphenyl)acetylamino]-acetamide:
A solution of (R)-2-amino-2-(4-methoxyphenyl)acetamide (200 g, 1.11 mol), triethylamine (124 g, 1.22 mol) in dimethylformamide (2 L) is cooled to 5° C. in an ice bath and (4-methoxyphenyl)acetyl chloride (225 g, 187 mL, 1.22 mol) is added dropwise at a rate which maintains the temperature in a range from 5° C. to 7° C. After 1.5 hours the additional stirring in the cold, the reaction solution is transferred to a vessel containing water (12 L). The solid which forms upon standing is collected and rinsed several times with water. The material collected is dried to a constant weight affording 323.9 g (89% yield) of the desired product. Analysis by chiral HPLC indicates 98.6% enantiomeric purity.

reactant | (R)-2-amino-2-(4-methoxyphenyl)acetamide | 1.11 mol, 200 g | N[C@@H](C(=O)N)C1=CC=C(C=C1)OC | C9H12N2O2
reactant | triethylamine | 1.22 mol, 124 g | C(C)N(CC)CC | C6H15N
reactant | (4-methoxyphenyl)acetyl chloride | 1.22 mol, 187 mL, 225 g | COC1=CC=C(C=C1)CC(=O)Cl | C9H9ClO2
reactant | water | 12 L | O | H2O
solvent | dimethylformamide | 2 L | CN(C=O)C | C3H7NO
product | 2-(R)-(4-methoxyphenyl)-2-[2-(4-methoxyphenyl)acetylamino]-acetamide | 323.9 g, 89% yield | COC1=CC=C(C=C1)[C@H](C(=O)N)NC(CC1=CC=C(C=C1)OC)=O | C18H20N2O4
